US08729263B2
To a 2-L flask was added 5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol (50 g, 127 mmol), 37% HCl (21 mL, 254 mmol), H2O (1 L) and EtOH (1 L). SMOPEX-234 (10 g, Pd scavenger) and activated charcoal (10 g) were also added. The mixture was heated at reflux (78° C.) for 3 hours. The resulting black mixture was allowed to cool to 60° C., and the Pd scavenging agents were filtered off at 50-60° C. The filtrate was cooled to 15° C. gradually over 1 h, and a pale yellow precipitate formed. After 2 h, the solid was collected by filtration, washed with EtOH (50 mL), and dried under vacuum at 50° C. to give 5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrochloride (27.2 g, 63 mmol). HRMS m/z 394.2222 [M+H]; 1H-NMR: (DMSO-d6, 400 MHz) δ 13.09 (br, 2H), 9.41 (d, J=12 Hz, 1H), 8.61 (d, J=12 Hz, 1H), 8.49 (d, J=Hz, 1H), 8.15 (br, 2H), 7.95 (d, J=8 Hz, 1H), 7.46 (d, J=8 Hz, 1H), 7.26 (d, J=8 Hz, 2H), 5.72 (m, 1H), 2.33 (dd, Ja=3.2 Hz, Jb=13.2 Hz, 2H), 1.86-1.92 (m, Ja=8 Hz, 2H), 1.23 (s, 6H), 1.10 (s, 6H); 13C-NMR: (DMSO-d6, 100 MHz) δ 162.34, 158.51, 156.41, 136.29, 128.72, 127.94, 120.40, 119.95, 116.37, 115.18, 113.45, 67.94, 56.69, 29.23, 25.10; XRPD: 13.47505, 14.29462, 14.99017, 16.55045, 17.60726, 19.69314, 21.89296, 23.89703, 25.82989, 27.13969, 28.47844, 36.94252, 43.77528.

reactant | 5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol | 127 mmol, 50 g | N1N=CC(=C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | C22H27N5O2
reactant | HCl | 254 mmol, 21 mL | Cl | ClH
reactant | H2O | 1 L | O | H2O
reactant | charcoal | 10 g | C | CH4
catalyst | Pd | [Pd] | Pd
solvent | EtOH | 1 L | CCO | C2H6O
product | 5-(1H-pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol hydrochloride | 63 mmol, 27.2 g | Cl.N1N=CC(=C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | InChI=1S/C22H27N5O2.ClH/c1-21(2)10-16(11-22(3,4)27-21)29-20-8-7-18(25-26-20)17-6-5-14(9-19(17)28)15-12-23-24-13-15;/h5-9,12-13,16,27-28H,10-11H2,1-4H3,(H,23,24);1H
